US08609656B2
Preparation of (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methylcarbamic acid tert-butyl ester
In a mixed solution of 10 mL of tetrahydrofuran and 5 mL of water, 324 mg (0.59 mmol) of methyl-(9-{4-[3-(3-trifluoromethyl-4-vinylphenyl)ureido]phenyl}-9H-purin-6-yl)-carbamic acid tert-butyl ester was dissolved, and 200 μL of a 0.1 M osmium tetraoxide aqueous solution and 510 mg (2.38 mmol) of sodium periodate were added thereto, and the mixture solution was stirred at room temperature for 14 hours. The reaction solution was partitioned between water and ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The product was purified by a silica gel column (hexane:ethyl acetate=1:2) to obtain 243 mg (75%) of a target product as a white crystal.

reactant | methyl-(9-{4-[3-(3-trifluoromethyl-4-vinylphenyl)ureido]phenyl}-9H-purin-6-yl)-carbamic acid tert-butyl ester | 0.59 mmol, 324 mg | C(C)(C)(C)OC(N(C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C=C)C(F)(F)F)C)=O | C27H26F3N7O3
reactant | sodium periodate | 2.38 mmol, 510 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
catalyst | osmium tetraoxide | 0.1 M | [Os](=O)(=O)(=O)=O
product | (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methylcarbamic acid tert-butyl ester | 243 mg, 75% | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C=O)C(F)(F)F)=O | C26H24F3N7O4
